US07705027B2
5-(2,4-Bis-benzyloxy-5-isopropyl-phenyl)-4-(4-morpholin-4-ylmethyl-phenyl)-isoxazole-3-carboxylic acid ethylamide (1 eq) was dissolved in an. DCM and under a nitrogen atmosphere, was cooled to 0° C. 1MBCl3 in DCM was added drop wise and the solution was stirred under these conditions for 30 minutes. Methanol (2 ml) was added and the reaction mixture was concentrated in vacuo. Purification of the sample by preparative LC/MS gave 5-(2,4-dihydroxy-5-isopropyl-phenyl)-4-(4-morpholin-4-ylmethyl-phenyl)-isoxazole-3-carboxylic acid ethylamide as a white solid.

reactant | 5-(2,4-Bis-benzyloxy-5-isopropyl-phenyl)-4-(4-morpholin-4-ylmethyl-phenyl)-isoxazole-3-carboxylic acid ethylamide | 1 eq | C(C)NC(=O)C1=NOC(=C1C1=CC=C(C=C1)CN1CCOCC1)C1=C(C=C(C(=C1)C(C)C)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C40H43N3O5
reactant | Methanol | 2 ml | CO | CH4O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 5-(2,4-dihydroxy-5-isopropyl-phenyl)-4-(4-morpholin-4-ylmethyl-phenyl)-isoxazole-3-carboxylic acid ethylamide | C(C)NC(=O)C1=NOC(=C1C1=CC=C(C=C1)CN1CCOCC1)C1=C(C=C(C(=C1)C(C)C)O)O | C26H31N3O5
